US04605434
N-[2-Nitro-5-(5-trifluoromethyl-2-pyridyloxy)-phenyl]-P,P-dimethyl-aminomethylphosphine oxide (compound No. 1.2)
A solution of 4.97 g of (5-trifluoromethyl-2-pyridyloxy)-3,4-dinitrobenzene in 15 ml of toluene is refluxed, and 3.21 g of melted P,P-dimethyl-aminomethylphosphine oxide are added dropwise. The mixture is refluxed for a further 2 hours, nitrous gases being evolved at the start. The brown solution is subsequently concentrated by evaporation, and the residue is recrystallised from 50 ml of ethyl acetate to thus obtain 4.10 g (70% of theory) of N-[2-nitro-5-(5-trifluoromethyl-2-pyridyloxy)-phenyl]-P,P-dimethyl-aminomethylphosphine oxide in the form of yellow crystals, m.p. 158°-160° C.

reactant | (5-trifluoromethyl-2-pyridyloxy)-3,4-dinitrobenzene | 4.97 g | FC(C=1C=CC(=NC1)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])(F)F | C12H6F3N3O5
reactant | P,P-dimethyl-aminomethylphosphine oxide | 3.21 g | CP(C)(CN)=O | C3H10NOP
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-Nitro-5-(5-trifluoromethyl-2-pyridyloxy)-phenyl]-P,P-dimethyl-aminomethylphosphine oxide | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)NCP(C)(C)=O | C15H15F3N3O4P
